US09447090B2
To a solution of 90 mg of 6-bromo-8-(cyclohexylmethoxy)-N-[(1R)-2-hydroxy-1-phenylethyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide in 1.8 ml of N-methyl-2-pyrrolidone were added 54 mg of zinc cyanide and 27 mg of [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium (II), followed by stirring at 180° C. for 30 minutes under a condition for microwave irradiation. To the reaction mixture was added 46 mg of zinc cyanide, followed by further stirring at 180° C. for 30 minutes under a condition for microwave irradiation. To the reaction mixture were added ethyl acetate and a saturated aqueous sodium hydrogen carbonate solution, followed by filtration through Celite. A layer separation operation of the obtained filtrate was carried out, the organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 7 mg of 6-cyano-8-(cyclohexylmethoxy)-N-[(1R)-2-hydroxy-1-phenylethyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | 6-bromo-8-(cyclohexylmethoxy)-N-[(1R)-2-hydroxy-1-phenylethyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 90 mg | BrC=1C=C(C=2N(C1)C(=C(N2)C)C(=O)N[C@@H](CO)C2=CC=CC=C2)OCC2CCCCC2 | C24H28BrN3O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | N-methyl-2-pyrrolidone | 1.8 ml | CN1C(CCC1)=O | C5H9NO
catalyst | zinc cyanide | 54 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium (II) | 27 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
catalyst | zinc cyanide | 46 mg | [C-]#N.[Zn+2].[C-]#N
product | 6-cyano-8-(cyclohexylmethoxy)-N-[(1R)-2-hydroxy-1-phenylethyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 7 mg | C(#N)C=1C=C(C=2N(C1)C(=C(N2)C)C(=O)N[C@@H](CO)C2=CC=CC=C2)OCC2CCCCC2 | C25H28N4O3
